US08791107B2
1-((R)-2-(1H-indol-4-yl)-6a,7,9,10-tetrahydro-[1,4]oxazino[3,4-h]pteridin-5(6H)-yl)-4,4-dimethylpentan-3-amine
The title compound was prepared in a manner similar to EXAMPLE 193 using tert-butyl (1-((R)-2-(1H-indol-4-yl)-6a,7,9,10-tetrahydro-[1,4]oxazino[3,4-h]pteridin-5(6H)-yl)-4,4-dimethylpentan-3-yl)carbamate (PREPARATION x78) in CH2Cl2 (0.5 mL) and trifluoroacetic acid (0.5 mL) (11.7 mg, 76%). 1H NMR (400 MHz, DMSO-d6) δ ppm 1.02 (s, 9H), 1.51-1.75 (m, 1H), 1.91-2.08 (m, 1H), 3.02-3.39 (m, 4H), 3.53-3.65 (m, 6H), 3.80-3.96 (m, 1H), 3.97-4.16 (m, 2H), 4.60-4.76 (m, 1H), 6.96-7.12 (m, 1H), 7.20-7.33 (m, 1H), 7.47-7.88 (m, 4H), 11.33-11.59 (m, 1H); ESI-MS m/z [M+H]+ calc'd for C24H32N6O, 421.27 found 421.4.

reactant | tert-butyl (1-((R)-2-(1H-indol-4-yl)-6a,7,9,10-tetrahydro-[1,4]oxazino[3,4-h]pteridin-5(6H)-yl)-4,4-dimethylpentan-3-yl)carbamate | N1C=CC2=C(C=CC=C12)C1=NC=2N3[C@H](CN(C2C=N1)CCC(C(C)(C)C)NC(OC(C)(C)C)=O)COCC3 | C29H40N6O3
solvent | CH2Cl2 | 0.5 mL | C(Cl)Cl | CH2Cl2
solvent | trifluoroacetic acid | 0.5 mL, 11.7 mg | FC(C(=O)O)(F)F | C2HF3O2
product | 1-((R)-2-(1H-indol-4-yl)-6a,7,9,10-tetrahydro-[1,4]oxazino[3,4-h]pteridin-5(6H)-yl)-4,4-dimethylpentan-3-amine | N1C=CC2=C(C=CC=C12)C1=NC=2N3[C@H](CN(C2C=N1)CCC(C(C)(C)C)N)COCC3 | C24H32N6O
